US08212045B2
To a solution of (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(2-methylpyridin-3-yloxy)pyridin-3-ylthio)propanoate (0.428 g, 0.787 mmol) in THF (20 mL) was added potassium 2-methylpropan-2-olate (1M in THF, 2.36 ml, 2.36 mmol) and the reaction was stirred at ambient temperature for 5 minutes. (Bromomethyl)cyclopropane (0.106 g, 0.787 mmol) was added followed by DMF (5 mL) and the reaction was stirred for 1 hour at ambient temperature. The reaction was poured into EtOAc (500 mL) and the organic layer was washed with a 1:1 solution of water, 1N NaOH (100 mL total) and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified over silica gel (40% EtOAc/CH2Cl2) to afford (S)-N-(5-(cyclopropylmethylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.30 g, 0.586 mmol, 74.5% yield).

reactant | (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(2-methylpyridin-3-yloxy)pyridin-3-ylthio)propanoate | 0.787 mmol, 0.428 g | O1[C@H](COC12CCCCC2)C2=NSC(=N2)NC2=C(C=C(C=N2)SCCC(=O)OC)OC=2C(=NC=CC2)C | C25H29N5O5S2
reactant | potassium 2-methylpropan-2-olate | 2.36 mmol, 1M, 2.36 ml | CC(C)(C)[O-].[K+]
reactant | (Bromomethyl)cyclopropane | 0.787 mmol, 0.106 g | BrCC1CC1 | C4H7Br
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | (S)-N-(5-(cyclopropylmethylthio)-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.586 mmol, 0.30 g, 74.5% yield | C1(CC1)CSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C25H29N5O3S2
